US08293715B2
Synthesis of benzyl 4-(3-hydroxyphenyl)piperazine-1-carboxylate
1-(3-Hydroxyphenyl)piperazine (200 mg) was dissolved in tetrahydrofuran (10 ml), the solution was added with saturated aqueous sodium hydrogencarbonate (10 ml) and benzyl chloroformate (176 μl) at room temperature, and the mixture was stirred for 14 hours. The reaction mixture was added with ethyl acetate for extraction, and the organic layer was dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain the title compound (342 mg).

reactant | 1-(3-Hydroxyphenyl)piperazine | 200 mg | OC=1C=C(C=CC1)N1CCNCC1 | C10H14N2O
reactant | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 176 μl | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzyl 4-(3-hydroxyphenyl)piperazine-1-carboxylate | 342 mg | OC=1C=C(C=CC1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H20N2O3
